US08859584B2
4-bromo-7-fluoro-2,3-dihydro-1H-inden-1-one
To a room temperature solution of aluminum chloride (11.77 g, 88 mmol) in dichloroethane (100 mL) was added 7-fluoro-2,3-dihydro-1H-inden-1-one (5.3 g, 35.3 mmol) followed with bromine (1.91 mL, 37.1 mmol). The mixture was heated at 65° C. for 16 hours, then cooled to ambient temperature and poured into a mixture of ice and HCl (1N aqueous). The mixture was extracted twice with ether (200 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by chromatography (silica gel column eluting with 0-10% EtOAc/hexanes) to provide the title compound (5.2 g, 64%). MS (DCI/NH3) m/z 246 (M+NH4)+.

reactant | aluminum chloride | 88 mmol, 11.77 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7-fluoro-2,3-dihydro-1H-inden-1-one | 35.3 mmol, 5.3 g | FC=1C=CC=C2CCC(C12)=O | C9H7FO
reactant | bromine | 37.1 mmol, 1.91 mL | BrBr | Br2
reactant | HCl | 1N | Cl | ClH
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 4-bromo-7-fluoro-2,3-dihydro-1H-inden-1-one | 5.2 g, 64% | BrC1=C2CCC(C2=C(C=C1)F)=O | C9H6BrFO
